US04512995
3-[2-(2,4-dichlorophenoxy)-3-oxo-4,4-dimethylpent-1-enyl]pyridine
In this example 5.0 grams (0.019 mole) of t-butyl 2,4-dichlorophenoxymethyl ketone and 2.1 ml (0.022 mole) of 3-pyridinecarboxaldehyde are added to 50 ml of methanol containing 0.1 g of sodium methoxide. The mixture is then stirred at room temperature for 5 hours and then evaporated to remove the methanol solvent, affording a semi-solid residue. The residue was then partitioned between diethyl ether and water. The separated ethyl ether phase was then extracted sequentially with 1N. aqueous sodium hydroxide, washed three times with water and then one time with brine. The diethyl ether phase was then dried over magnesium sulfate, filtered, then concentrated in vacuo affording a yellow oil. The yellow oil was then chromatographed on silica gel eluting with hexane ethyl acetate mixtures. The chromatographed fractions were combined by a thin layer chromatographed profile and then concentrated by evaporation affording the title compound as a viscous oil, 5.9 g.

reactant | t-butyl 2,4-dichlorophenoxymethyl ketone | 0.019 mole, 5.0 grams | ClC1=C(OCC(=O)C(C)(C)C)C=CC(=C1)Cl | C12H14Cl2O2
reactant | 3-pyridinecarboxaldehyde | 0.022 mole, 2.1 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 50 ml, 0.1 g | CO | CH4O
product | 3-[2-(2,4-dichlorophenoxy)-3-oxo-4,4-dimethylpent-1-enyl]pyridine | ClC1=C(OC(=CC=2C=NC=CC2)C(C(C)(C)C)=O)C=CC(=C1)Cl | C18H17Cl2NO2
